US04159986
220 cc of thionyl chloride were progressively added to 50 gm of 4-methyl-thiophene-2-carboxylic acid [prepared by process in Beil, Vol. 18, p. 294] and the mixture was heated to reflux for 1 hour. Excess thionyl chloride was evaporated off under reduced pressure and the residue was distilled under reduced pressure to obtain 51 gm of 4-methyl-thiophene-2-carboxylic acid chloride boiling at 112°-114° C. at 18 mm Hg. which was used as is for the next step. The light yellow liquid was soluble in ether.

reactant | 4-methyl-thiophene-2-carboxylic acid | 50 gm | CC=1C=C(SC1)C(=O)O | C6H6O2S
reactant | thionyl chloride | 220 cc | S(=O)(Cl)Cl | Cl2OS
product | 4-methyl-thiophene-2-carboxylic acid chloride | 51 gm | CC=1C=C(SC1)C(=O)Cl | C6H5ClOS
